US06169087A
4-Amino-anisole (15 g, 0.12 mol) was dissolved in a mixture of concentrated hydrochloric acid (36 ml) and water (36 ml). To the resulting mixture was added dropwise at 5° C. a solution of sodium nitrite (9.2 g, 0.13 mol) in water (45 ml). The resulting diazonium salt was added to a mixture of sodium acetate (30 g, 0.37 mol), ethanol (125 ml) and pentane-2,4-dione (12.2 g, 0.12 mol) at room temperature. The resulting mixture was stirred for 1 h at room temperature. The precipitate was filtered off and washed with water (2×150 ml), ethanol (2×50 ml) and dried in vacuo at 50° C. for 18 h affording 17 g (60%) of 3-[(4-methoxy-phenyl)-hydrazono]-pentane-2,4-dione as a solid.

reactant | 4-Amino-anisole | 0.12 mol, 15 g | NC1=CC=C(C=C1)OC | C7H9NO
reactant | sodium nitrite | 0.13 mol, 9.2 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.37 mol, 30 g | C(C)(=O)[O-].[Na+]
reactant | pentane-2,4-dione | 0.12 mol, 12.2 g | CC(CC(C)=O)=O | C5H8O2
solvent | hydrochloric acid | 36 ml | Cl | ClH
solvent | water | 36 ml | O | H2O
solvent | water | 45 ml | O | H2O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 3-[(4-methoxy-phenyl)-hydrazono]-pentane-2,4-dione | 17 g, 60% | COC1=CC=C(C=C1)NN=C(C(C)=O)C(C)=O | C12H14N2O3
